US06075029
C. Preparation of 7-Benzyl-3,8-dimethylxanthine
A solution of sodium hydroxide (400 mg) in water (5 ml) was added to a suspension of 3,8-dimethylxanthine (1.80 g) in methanol (10 ml) at 70° C. and stirred for 1 hour. Benzyl bromide (1.2 ml) was added and the mixture was stirred at 70-80° C. for 5 hours. After evaporation of the solvent under reduced pressure, the residue was suspended in saturated aqueous ammonium chloride solution (50 ml) and extracted with ethyl acetate (3×75 ml). The combined extracts were washed with saturated aqueous sodium chloride solution (30 ml), dried over magnesium sulfate and concentrate. The product was purified by recrystallization from ethanol. Yield=1.06 g.

reactant | sodium hydroxide | 400 mg | [OH-].[Na+]
reactant | 3,8-dimethylxanthine | 1.80 g | CN1C(NC(C=2NC(=NC12)C)=O)=O | C7H8N4O2
reactant | Benzyl bromide | 1.2 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | water | 5 ml | O | H2O
solvent | methanol | 10 ml | CO | CH4O
product | 7-Benzyl-3,8-dimethylxanthine | C(C1=CC=CC=C1)N1C(=NC=2N(C(NC(C12)=O)=O)C)C | C14H14N4O2
